US07981918B2
Trifluoro-methanesulfonic acid 3,5-dimethyl-4-[(R)-2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-3-ylmethyl]-phenyl ester
Cool a solution of (R)-3-(4-Hydroxy-2,6-dimethyl-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one (Preparation 65) (0.85 g, 2.5 mmol) in Pyridine (20 mL) to 0° C. and treat with Trifluoromethanesulfonic anhydride (1.3 mL, 7.5 mmol). Allow the reaction to warm to room temperature. After stirring for 2 hr at room temperature, quench the reaction with 1N HCl and extract with EtOAc. Wash the organic with brine, dry over MgSO4, and filter. Remove the solvent to afford 1.05 g (70%) of desired product. MS (m/e): 604 (M+1).

reactant | (R)-3-(4-Hydroxy-2,6-dimethyl-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | 2.5 mmol, 0.85 g | OC1=CC(=C(C[C@H]2C(N(CC2)C2CC3=CNN=C3CC2)=O)C(=C1)C)C | C20H25N3O2
reactant | Trifluoromethanesulfonic anhydride | 7.5 mmol, 1.3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | Pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic acid 3,5-dimethyl-4-[(R)-2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-3-ylmethyl]-phenyl ester | 1.05 g, 70% | CC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1CC2=CN(N=C2CC1)S(=O)(=O)C(F)(F)F)=O)C)OS(=O)(=O)C(F)(F)F | C22H23F6N3O6S2
